US08461162B2
A solution of 3-bromo-6-(6-fluoropyridin-3-yl)pyrazolo[1,5-a]pyrimidine (0.1 g, 0.34 mmol), 1-amino-2-methylpropan-2-ol (0.06 g, 0.68 mmol) and potassium carbonate (0.9 g, 0.68 mmol) in DMF (3 mL) was heated to 80° C. for 72 hours. The reaction was directly purified by reverse phase LC to give 1-{[5-(3-bromopyrazolo[1,5-a]pyrimidin-6-yl)pyridin-2-yl]amino}-2-methylpropan-2-ol. LC-MS EIMS: m/z 364.0 [M+H]+.

reactant | 3-bromo-6-(6-fluoropyridin-3-yl)pyrazolo[1,5-a]pyrimidine | 0.34 mmol, 0.1 g | BrC=1C=NN2C1N=CC(=C2)C=2C=NC(=CC2)F | C11H6BrFN4
reactant | 1-amino-2-methylpropan-2-ol | 0.68 mmol, 0.06 g | NCC(C)(O)C | C4H11NO
reactant | potassium carbonate | 0.68 mmol, 0.9 g | C([O-])([O-])=O.[K+].[K+]
solvent | DMF | 3 mL | CN(C)C=O | C3H7NO
product | 1-{[5-(3-bromopyrazolo[1,5-a]pyrimidin-6-yl)pyridin-2-yl]amino}-2-methylpropan-2-ol | BrC=1C=NN2C1N=CC(=C2)C=2C=CC(=NC2)NCC(C)(O)C | C15H16BrN5O
